US06503949B1
4-Nitrophthalimide (6.15 g, 32.0 mmol) was dissolved in DMF (60 mL). Cyclopropylmethyl bromide (9.3 mL, 96 mmol) and potassium carbonate (8.85 g, 64.0 mmol) were added and the mixture was heated to 100° C. for 4 hours. The mixture was allowed to cool to room temperature, and then partitioned between water (500 mL) and ethyl acetate (400 mL). The organic phase was collected, dried with Na2SO4, filtered and taken to dryness using rotary evaporation. The residue was dried overnight in a vacuum oven to afford 6.49 g (82%) of pure N-cyclopropylmethyl4-nitrophthalimide as a powder.

reactant | 4-Nitrophthalimide | 32.0 mmol, 6.15 g | [N+](=O)([O-])C=1C=C2C(C(=O)NC2=O)=CC1 | C8H4N2O4
reactant | Cyclopropylmethyl bromide | 96 mmol, 9.3 mL | C1(CC1)CBr | C4H7Br
reactant | potassium carbonate | 64.0 mmol, 8.85 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | N-cyclopropylmethyl4-nitrophthalimide | 6.49 g, 82% | C1(CC1)CN1C(C=2C(C1=O)=CC(=CC2)[N+](=O)[O-])=O | C12H10N2O4
